US04433152
A mixture of 826 mg of 1-amidino-4-piperidinecarboxylic acid hydrochloride and 3.0 g of bis-(o-benzyloxycarbonylphenyl)sulfite was stirred overnight at room temperature in a solution of 10 ml of dry dimethylformamide and 4 ml of dry pyridine. The solvent was removed under reduced pressure, and the residue was washed three times with ether. 10 ml of acetone and 30 ml of ethyl acetate were added to the residue, and the mixture was stimulated to give crystals. The crystals were washed with hot ethyl acetate to obtain 1,015 mg (yield: 61%) of o-benzyloxycarbonylphenyl 1-amidino-4-piperidinecarboxylate hydrochloride as colorless crystals having a melting point of 140.5° to 147° C.

reactant | 1-amidino-4-piperidinecarboxylic acid hydrochloride | 826 mg | Cl.C(N)(=N)N1CCC(CC1)C(=O)O
reactant | bis-(o-benzyloxycarbonylphenyl)sulfite | 3.0 g | C(C1=CC=CC=C1)OC(=O)C1=C(C=CC=C1)OS(=O)OC1=C(C=CC=C1)C(=O)OCC1=CC=CC=C1 | C28H22O7S
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | o-benzyloxycarbonylphenyl 1-amidino-4-piperidinecarboxylate hydrochloride | 1,015 mg, yield: 61% | Cl.C(N)(=N)N1CCC(CC1)C(=O)OC1=C(C=CC=C1)C(=O)OCC1=CC=CC=C1 | InChI=1S/C21H23N3O4.ClH/c22-21(23)24-12-10-16(11-13-24)19(25)28-18-9-5-4-8-17(18)20(26)27-14-15-6-2-1-3-7-15;/h1-9,16H,10-14H2,(H3,22,23);1H
